US07601742B2
14.2 Preparation of 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]-benzoic acid
3-[4-(3-Cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzoic acid ethyl ester (180 mg, 0.43 mmol) was mixed with EtOH:water (1:1, 20 mL) and NaOH (1N, 1.3 mL). The mixture was heated to 90° C. for 12 h and then cooled down to r.t. After neutralizing to pH=2 with HCl (1N), the mixture was extracted twice with EtOAc. The organic layer was combined, washed with brine and dried over MgSO4. After concentration 150 mg of the desired product was obtained as a light brown solid. Yield: 89%.

reactant | 3-[4-(3-Cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]benzoic acid ethyl ester | 0.43 mmol, 180 mg | C(C)OC(C1=CC(=CC=C1)N1C(CC(C1)C1=CC(=C(C=C1)OC)OC1CCCC1)=O)=O | C25H29NO5
reactant | NaOH | 1N, 1.3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH water | 20 mL | CCO.O
product | 3-[4-(3-cyclopentyloxy-4-methoxyphenyl)-2-oxo-pyrrolidin-1-yl]-benzoic acid | Yield: 89% | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(N(C1)C=1C=C(C(=O)O)C=CC1)=O | C23H25NO5
